US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-[2-(3-bromo-phenyl)-ethyl]ester hydrochloride salt
The title compound was prepared as a brown oil from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-(3-bromophenyl)ethanol according to the procedure of Example 1; 1H NMR (300 MHz, CDCl3): δ 1.12 (m, J=6.3 Hz, 3H), 2.79 (m, 8H), 3.5 (m 2H), 4.18 (s, 1H, OH), 5.56 (m, 1H), 6.8 (m, 3H), 7.0 (m, 4H), 7.33 (m, 4H), 7.5 (m, 4H), 8.5 (m, 1H, NH); MS (ES) m/z (relative intensity): 788 (M+ +H, 100).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-(3-bromophenyl)ethanol | BrC=1C=C(C=CC1)CCO | C8H9BrO
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-[2-(3-bromo-phenyl)-ethyl]ester hydrochloride salt | Cl.BrC=1C=C(C=CC1)CCOC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCCC2=CC(=CC=C2)Br | InChI=1S/C36H34Br2ClNO7.ClH/c1-23(40-22-31(41)27-7-4-10-30(39)21-27)17-26-11-12-32-33(20-26)47-36(46-32,34(42)44-15-13-24-5-2-8-28(37)18-24)35(43)45-16-14-25-6-3-9-29(38)19-25;/h2-12,18-21,23,31,40-41H,13-17,22H2,1H3;1H/t23-,31+;/m1./s1
